US05023253
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-(2-phenoxyethoxy)-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 2 l of 2-phenoxyethanol was stirred at room temperature under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in 2-phenoxyethanol. The reaction product was diluted with ether then decomposed with dry ice. Components of etherial solution were separated on a silica gel column using triethylamine, which elutes the 2-phenoxyethanol, and then a mixture of chloroform and methanol 9:1, which elutes the product. The product was further purified by preparative thin layer chromatography on silica gel with a mixture of chloroform and acetone 6:4. This procedure gave 93 mg (71%) of the title compound, having a melting point of 153°-155° C. and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | 2-phenoxyethanol | 2 l | O(C1=CC=CC=C1)CCO | C8H10O2
solvent | ether | CCOCC | C4H10O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-(2-phenoxyethoxy)-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate | 93 mg, 71% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCOC1=CC=CC=C1)C)=O)CC1C2N1)OC | InChI=1S/C22H24N2O6.CH3NO2/c1-12-18(26)17-16(14(11-25)22(28-2)21-15(23-21)10-24(17)22)19(27)20(12)30-9-8-29-13-6-4-3-5-7-13;2-1(3)4/h3-7,14-15,21,23,25H,8-11H2,1-2H3;2H2,(H,3,4)
